US09447046B2
A solution of 3,5-difluoroaniline (5.0 g, 38.7 mmol) in HCOOH (15 mL) was heated to reflux for 4 h. The mixture was poured into ice-water and stirred for 0.5 h. The white solid was collected by filtration, and dried under vacuum to give 4.8 g (79%) of crude N-(3,5-difluorophenyl)formamide. To the solution of LiAlH4 (3.0 g, 78.9 mmol) in dry THF (50 mL) was added a solution of N-(3,5-difluorophenyl)formamide (4.8 g, 30.6 mmol) in dry THF (50 mL) at r.t. The mixture was stirred overnight and then quenched with addition of water (3.0 mL), aqueous 10% NaOH (3.0 mL), and water (9.0 ml). The reaction mixture was filtered and extracted with EtOAc. Organics were dried (Na2SO4), and concentrated to give 3.8 g (86%) of the title compound as a pale brown oil.

reactant | 3,5-difluoroaniline | 38.7 mmol, 5.0 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | HCOOH | 15 mL | C(=O)O | CH2O2
product | N-(3,5-difluorophenyl)formamide | 4.8 g, 79% | FC=1C=C(C=C(C1)F)NC=O | C7H5F2NO
